US05208250
5-[(3-Methoxyphenyl)methylene]-3-methyl-2,4-imidazolidinedione
Prepared according to the procedure described in Example 93 using 3-methoxybenzaldehyde (3.5 ml, 28 mmoles) and 3-methyl hydantoin (3.0 g, 21 mmoles), to afford the product (3.6 g), mp 203°-205° C.

reactant | 3-methoxybenzaldehyde | 28 mmoles, 3.5 ml | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | 3-methyl hydantoin | 21 mmoles, 3.0 g | CN1C(NCC1=O)=O | C4H6N2O2
product | 5-[(3-Methoxyphenyl)methylene]-3-methyl-2,4-imidazolidinedione | 3.6 g | COC=1C=C(C=CC1)C=C1C(N(C(N1)=O)C)=O | C12H12N2O3
